US06297196B1
Step 2: 5,8-Dimethyl-4-thiochromanone
At −10° C., 100 g (0.48 mol) of 3-[(2,5-dimethylphenyl)thio]propanoic acid were dissolved in 2200 ml of conc. sulfuric acid. The reaction solution was stirred at room temperature for 1 h and then poured onto crushed ice. The aqueous solution was extracted with a diethyl ether/hexane mixture (1:9) (6×500 ml). The combined organic phases were dried over MgSO4 and concentrated completely using a rotary evaporator.

reactant | 3-[(2,5-dimethylphenyl)thio]propanoic acid | 0.48 mol, 100 g | CC1=C(C=C(C=C1)C)SCCC(=O)O | C11H14O2S
solvent | sulfuric acid | 2200 ml | S(O)(O)(=O)=O | H2O4S
product | 5,8-Dimethyl-4-thiochromanone | CC1=C2C(CCSC2=C(C=C1)C)=O | C11H12OS
